US08957070B2
4-(Propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
To a mixed solution of ethyl 4-(propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (0.56 g) in tetrahydrofuran (15 mL)-methanol (15 mL) was added aqueous solution (5 mL) of 85% potassium hydroxide (0.35 g), and the mixture was stirred at room temperature for 15 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained oil was crystallized from ethyl acetate-hexane to give the title compound (486 mg, yield 93%) as pale-yellow prism crystals. melting point 247-248° C.

reactant | ethyl 4-(propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.56 g | C(CC)S(=O)(=O)C1=C2C=C(NC2=C(C=C1)NS(=O)(=O)C=1SC=CC1)C(=O)OCC | C18H20N2O6S3
reactant | methanol | 15 mL | CO | CH4O
reactant | potassium hydroxide | 5 mL, 0.35 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(Propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 486 mg, yield 93% | C(CC)S(=O)(=O)C1=C2C=C(NC2=C(C=C1)NS(=O)(=O)C=1SC=CC1)C(=O)O | C16H16N2O6S3
